US04207326
Reaction of 3,5-dimethyl-1-dodecyl-pyrazole with 2,4-dichlorobenzylbromide yields 2-(2,4-dichlorobenzyl)-3,5-dimethyl-1-dodecyl-pyrazolium bromide; m.p. 139°-140.5° C.

reactant | 3,5-dimethyl-1-dodecyl-pyrazole | CC1=NN(C(=C1)C)CCCCCCCCCCCC | C17H32N2
reactant | 2,4-dichlorobenzylbromide | ClC1=C(CBr)C=CC(=C1)Cl | C7H5BrCl2
product | 2-(2,4-dichlorobenzyl)-3,5-dimethyl-1-dodecyl-pyrazolium bromide | [Br-].ClC1=C(CN2[N+](=C(C=C2C)C)CCCCCCCCCCCC)C=CC(=C1)Cl | InChI=1S/C24H37Cl2N2.BrH/c1-4-5-6-7-8-9-10-11-12-13-16-27-20(2)17-21(3)28(27)19-22-14-15-23(25)18-24(22)26;/h14-15,17-18H,4-13,16,19H2,1-3H3;1H/q+1;/p-1
